US07465731B2
To a solution of ethyl (2E)-3-{5-[(3R)-3-piperidinylamino]-2-pyrazinyl)acrylate dihydrochloride (300 mg) in 1,2-dichloroethane (5 mL) were added diisopropylethylamine (222 mg) and cyclohexanone (93 mg), and the mixture was stirred at ambient temperature for 5 min. To the mixture was added sodium triacetoxybrohydryde (364 mg) and stirred for 4 hrs, and resulting mixture was poured into saturated sodium bicarbonate solution, and extracted with chloroform. The organic layer was washed with water, and brine, and dried over magnesium sulfate. The solvent was removed in vacuo and the residue was purified by preparative thin layer chromatography (chloroform-MeOH=10-1) to give ethyl (2E)-3-(5-{[(3R)-1-cyclohexyl-3-piperidinyl]amino}-2-pyrazinyl)acrylate (235 mg) as an amorphous powder.

reactant | ethyl (2E)-3-{5-[(3R)-3-piperidinylamino]-2-pyrazinyl)acrylate dihydrochloride | 300 mg | Cl.Cl.N1C[C@@H](CCC1)NC=1N=CC(=NC1)/C=C/C(=O)OCC
reactant | diisopropylethylamine | 222 mg | C(C)(C)N(CC)C(C)C | C8H19N
reactant | cyclohexanone | 93 mg | C1(CCCCC1)=O | C6H10O
reactant | sodium | [Na] | Na
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | 1,2-dichloroethane | 5 mL | ClCCCl | C2H4Cl2
product | ethyl (2E)-3-(5-{[(3R)-1-cyclohexyl-3-piperidinyl]amino}-2-pyrazinyl)acrylate | 235 mg | C1(CCCCC1)N1C[C@@H](CCC1)NC=1N=CC(=NC1)/C=C/C(=O)OCC | C20H30N4O2
